US05660598
N-(1-methylpropyl)aniline was prepared from aniline and 2-bromobutane using the same method as in Example 2ii).

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 2-bromobutane | BrC(C)CC | C4H9Br
product | N-(1-methylpropyl)aniline | CC(CC)NC1=CC=CC=C1 | C10H15N
